US07396939B2
Step 1: 3-[(2-Methoxyethyl)(methyl)amino]-2-methyl-4-(methylsulfonyl)benzoic acid
Under nitrogen, 1.0 g (3 mmol) of 3-[(2-methoxyethyl)amino]-2-methyl-4-(methylsulfonyl)benzoic acid was dissolved in 150 ml of THF, and 10 g of paraformaldehyde and then, a little at a time, 0.7 g (20 mmol) of NaBH4 were added. 15 ml of trifluoroacetic acid were then slowly added dropwise. The mixture was stirred at RT for another 3 days. For work-up, 10% strength H2SO4 was added, and the mixture was extracted repeatedly with EA and then dried over MgSO4 and concentrated. This gave a brownish oil.

reactant | 3-[(2-methoxyethyl)amino]-2-methyl-4-(methylsulfonyl)benzoic acid | 3 mmol, 1.0 g | COCCNC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C12H17NO5S
reactant | paraformaldehyde | 10 g | C=O | CH2O
reactant | NaBH4 | 20 mmol, 0.7 g | [BH4-].[Na+]
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-[(2-Methoxyethyl)(methyl)amino]-2-methyl-4-(methylsulfonyl)benzoic acid | COCCN(C=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C)C | C13H19NO5S
